US05071990
(7S, 8R, 9S, 9aR)-3,4,7,8,9-Pentahydroxy-octahydropyrido-[2,1-c][l,4]oxazine
Preparation is carried out analogously to Example 1 from 1,5-didesoxy-l,5-imino-D-galactitol and corresponding molar ratios of 30% strength aqueous glyoxal.

reactant | 1,5-didesoxy-l,5-imino-D-galactitol | N1C[C@H](O)[C@@H](O)[C@@H](O)[C@H]1CO | C6H13NO4
reactant | glyoxal | C(=O)C=O | C2H2O2
product | (7S, 8R, 9S, 9aR)-3,4,7,8,9-Pentahydroxy-octahydropyrido-[2,1-c][l,4]oxazine | OC1C(N2[C@H](CO1)[C@@H]([C@@H]([C@H](C2)O)O)O)O | C8H15NO6
